US03939180
b. 3-Bromo-6-Chloro-Phthalide
6-Chlorophthalide (7.66 gms; 0.0452 mole), N-bromosuccinimide (8.1 gms; 0.0452 mole) and azobisbutyronitrile (0.1 gm) were gently refluxed in dry carbon tetrachloride (150 ml.) for 11/2 hours. On cooling, the succinimide was filtered off and the solvent removed in vacuo to leave a yellow solid, which was used immediately. Yield 9.57 gms. 86.2%

reactant | 6-Chlorophthalide | 0.0452 mole, 7.66 gms | ClC1=CC=C2COC(=O)C2=C1 | C8H5ClO2
reactant | N-bromosuccinimide | 0.0452 mole, 8.1 gms | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisbutyronitrile | 0.1 gm | N(=NCCCC#N)CCCC#N | C8H12N4
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Bromo-6-Chloro-Phthalide | BrC1OC(=O)C2=CC(=CC=C12)Cl | C8H4BrClO2
